US07981874B2
1-tert-Butyl 4,4-diethyl piperidine-1,4,4-tricarboxylate.
To a solution of iPr2NH (4.72 g, 46.6 mmol) at −20° C. in THF (70 mL) was added n-butyllithium (13.99 mL, 35.0 mml, 2.5 M in hexanes). After 15 minutes at −20° C., the solution was cooled to −78° C., and 1-tert-butyl 4-ethyl piperidine-1,4-dicarboxylate (6.00 g, 23.3 mmol) was added. After stirring at −78° C. for 1 h, ethyl chloroformate (7.59 g, 70.0 mmol) was added dropwise. The reaction was then allowed to warm to room temperature over 4 h. The solution was diluted with 1 N HCl and extracted with EtOAc (2×). The combined organic extracts were washed with brine, dried (MgSO4), and evaporated. Flash chromatography of the crude (0-25% EtOAc/hexanes) yielded the desired product as a yellow oil. 1H NMR (CDCl3, 600 MHz) δ 4.18 (q, J=7.1 Hz, 4H), 3.43-3.38 (m, 4H), 2.05-2.00 (m, 4H), 1.42 (s, 9H), 1.23 (t, J=7.0 Hz, 6H). MS: cal'd 352 (MNa+), exp 352 (MNa+).

reactant | iPr2NH | 46.6 mmol, 4.72 g | N(C(C)C)C(C)C | C6H15N
reactant | n-butyllithium | 2.5 M, 13.99 mL | C(CCC)[Li]
reactant | 1-tert-butyl 4-ethyl piperidine-1,4-dicarboxylate | 23.3 mmol, 6.00 g | N1(CCC(CC1)C(=O)OCC)C(=O)OC(C)(C)C | C13H23NO4
reactant | ethyl chloroformate | 70.0 mmol, 7.59 g | ClC(=O)OCC | C3H5ClO2
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | HCl | 1 N | Cl | ClH
product | 1-tert-Butyl 4,4-diethyl piperidine-1,4,4-tricarboxylate | N1(CCC(CC1)(C(=O)OCC)C(=O)OCC)C(=O)OC(C)(C)C | C16H27NO6
